US04711903
3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanal
Triethylamine (1.1 ml, 0.0076 mole) was added to a solution of 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (18.2 g, 0.076 mole) in methyl alcohol (200 ml) and stirred for 30 minutes. Freshly distilled acrolein (12.8 g, 0.23 mole) was added and the solution stirred at room temperature. The product was purified by chromatography on silica and characterized by its NMR and IR spectra and m.p. ca. 75° C.

reactant | Triethylamine | 0.0076 mole, 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 0.076 mole, 18.2 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | acrolein | 0.23 mole, 12.8 g | C(=O)C=C | C3H4O
solvent | methyl alcohol | 200 ml | CO | CH4O
product | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanal | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC=O | C17H26O2S
